US06458779B1
a) 2-Bromomethyl-6-fluoronaphthalene
6-Fluoro-2-methylnaphthalene (20.5 g, 128 mmol, prepared by adaptation of the method of Wolinska-Mocydlarz et al2) and NBS (22.8 g, 128 mmol) were heated at reflux for 16 hr in CCl4 (210 mL) during which time, benzoyl peroxide (2.5 g) was added portionwise. The cooled solution was filtered and evaporated and the residue was extracted thoroughly with hexane (4×250 mL). The extracts were decanted from tarry material, combined and evaporated to give the product as a yellow solid, 29.8 g (97%).

reactant | 6-Fluoro-2-methylnaphthalene | FC=1C=C2C=CC(=CC2=CC1)C | C11H9F
reactant | NBS | 128 mmol, 22.8 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | benzoyl peroxide | 2.5 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | 210 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-Bromomethyl-6-fluoronaphthalene | BrCC1=CC2=CC=C(C=C2C=C1)F | C11H8BrF
